US08975400B2
5-formyl-2-((6-(trifluoromethyl)pyridin-3-yl)oxy)benzonitrile
The title compound was prepared by a procedure similar to that described for D4 starting from 2-fluoro-5-formylbenzonitrile and 6-(trifluoromethyl)pyridin-3-ol

reactant | 2-fluoro-5-formylbenzonitrile | FC1=C(C#N)C=C(C=C1)C=O | C8H4FNO
reactant | 6-(trifluoromethyl)pyridin-3-ol | FC(C1=CC=C(C=N1)O)(F)F | C6H4F3NO
product | 5-formyl-2-((6-(trifluoromethyl)pyridin-3-yl)oxy)benzonitrile | C(=O)C=1C=CC(=C(C#N)C1)OC=1C=NC(=CC1)C(F)(F)F | C14H7F3N2O2
